US09029409B2
To a cold solution of (6-((hydroxyimino)methyl)-N-(4-methoxybenzyl)-2-methylpyrimidine-4-carboxamide (0.2 g, 0.66 mmol, Preparation #B.1.1) and tert-butyl 4-vinylpiperidine-1-carboxylate (0.168 g, 0.799 mmol, Preparation #E.1.2) in chloroform (20 mL) was added iodobenzene diacetate (0.343 g, 1.06 mmol) in one portion. The mixture was allowed to warm to RT and stirred for about another 1 h. The reaction mixture was quenched with water (20 mL) and the product was extracted with chloroform (2×20 mL). The organic layer was washed with water (2×15 mL), dried over sodium sulphate and evaporated to dryness. The residue obtained was purified by column chromatography using silica gel (60-120 mesh) eluting with 50% n-hexane and EtOAc. Relevant fractions containing the required compound were combined and evaporated to dryness under reduced pressure to afford tert-butyl 4-(3-(6-(4-methoxybenzylcarbamoyl)-2-methylpyrimidin-4-yl)-4,5-dihydroisoxazol-5-yl)piperidine-1-carboxylate 0.1 g (29%). MS m/z: 510 (M+H)+.

reactant | 6-((hydroxyimino)methyl)-N-(4-methoxybenzyl)-2-methylpyrimidine-4-carboxamide | 0.66 mmol, 0.2 g | ON=CC1=CC(=NC(=N1)C)C(=O)NCC1=CC=C(C=C1)OC | C15H16N4O3
reactant | tert-butyl 4-vinylpiperidine-1-carboxylate | 0.799 mmol, 0.168 g | C(=C)C1CCN(CC1)C(=O)OC(C)(C)C | C12H21NO2
reactant | iodobenzene diacetate | 1.06 mmol, 0.343 g | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl 4-(3-(6-(4-methoxybenzylcarbamoyl)-2-methylpyrimidin-4-yl)-4,5-dihydroisoxazol-5-yl)piperidine-1-carboxylate | 0.1 g, 29% | COC1=CC=C(CNC(=O)C2=CC(=NC(=N2)C)C2=NOC(C2)C2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C27H35N5O5
